Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
___ stab wounds to the left neck and leftupper chest
 
Major Surgical or Invasive Procedure:
___ 
Direct laryngoscopy
bronchoscopy 
esophagoscopy
left thoracostomy tube placement
exploration and washout of multiple neck and chest wounds.

 
History of Present Illness:
The patient is a ___ female who was recently discharged 
from a rehab facility.  Following inhalation of heroin earlier 
during the day, the
patient made a suicide attempt by repeatedly stabbing herself in 
the neck and chest and lower abdomen.  On examination, she had 
five stab wounds to the left neck, four of which appeared to 
penetrate the platysma, two superficial stab wounds of the 
anterior lateral left chest and multiple minimal superficial
stab wounds of the epigastric region.  She had a tiny left 
pneumothorax noted on a CT scan from ___.  She 
was transferred to us in stable condition.

On examination and reevaluation of the CT scan, it was notable
that there appeared to be no vascular injury whatsoever. 
However, there was an extensive amount of air in the soft
tissues of the neck, a mediastinal hematoma, a slightly
enlarged left pneumothorax, and the patient also complained of
mild hoarseness.  Given these findings, I was uneasy simply
observing her and decided the best course of action,
particularly because she had a very low pain threshold would
be to take her to the operating room for a triple endoscopy
and chest tube placement.

 
Past Medical History:
PMH: 
bipolar disorder
depression
polysubstance abuse (opioid) 
chronic stomach aches - feels is associated with opiate use 
psych history: prior suicide attempt 

PSH: 
none

 
Social History:
___
Family History:
General answer of schizophrenia in uncle, OCD & depression and
anxiety and borderline in other family members, and substance 
use
in multiple family members. ___ suicide.

 
Physical Exam:
Admission Physical Exam:

HR: 118 BP: 99/63 Resp: 26 O(2)Sat: 100% Normal
 
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Nontender, Soft
Extr/Back: No cyanosis, clubbing or edema
Skin: 5 stab wound left neck zone 2, 2 stab wound left
anterior chest ___ IC space
Neuro: Speech fluent, grossly normal ext motor exam
Psych: Normal mentation
___: No petechiae

Discharge Physical Exam:
Vital Signs: temp 98.4, BP 116/72, HR 91, RR 18, O2Sats 98% on 
RA
Physical Exam:
Gen: [X] NAD, [] AAOx3
CV: [X] RRR, [] murmur
Resp: [X] breaths unlabored, [] CTAB, [] wheezing, [] rales
Abdomen: [X] soft, [] distended, [] tender, [] rebound/guarding
Wound: [X] incisions clean, dry, intact
Ext: [X] warm, [] tender, [] edema

 
Pertinent Results:
IMAGING:

___: CXR:
Subcutaneous gas in the neck and pneumomediastinum.  Known small 
left 
pneumothorax seen on prior CT is not clearly delineated on this 
x-ray. 

___: CXR:
Large left pneumothorax has increased substantially, shifting 
the mediastinum slightly to the right.  Left thoracostomy tube 
position apparently pleural.  Small left pleural effusion is 
incidental. 
  
Right lung clear. 
  
Subsequent chest radiographs available at the time of this 
review, 06:28, 
showed evaluation of nearly all of the left pneumothorax and 
return of the 
mediastinum to the midline. 

___: CXR:
No pneumothorax.

___: CXR:
No pneumothorax following removal of the left chest tube.

LABS:

___ 07:25PM   PO2-70* PCO2-46* PH-7.27* TOTAL CO2-22 BASE 
XS--5
___ 07:25PM   GLUCOSE-94 LACTATE-3.1* CREAT-0.9 NA+-136 
K+-6.4* CL--107
___ 07:25PM   HGB-11.8* calcHCT-35 O2 SAT-89 CARBOXYHB-3 
MET HGB-1
___ 07:25PM   freeCa-1.03*
___ 07:24PM   UREA N-12 CREAT-0.9
___ 07:24PM   LIPASE-23
___ 07:24PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:24PM   WBC-20.0* RBC-4.16 HGB-11.4 HCT-35.9 MCV-86 
MCH-27.4 MCHC-31.8* RDW-13.1 RDWSD-41.1
___ 07:24PM   NEUTS-83.7* LYMPHS-7.6* MONOS-7.9 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-16.41* AbsLymp-1.49 AbsMono-1.55* 
AbsEos-0.00* AbsBaso-0.03
___ 07:24PM   PLT COUNT-142*
___ 07:24PM   ___ PTT-19.1* ___
___ 07:24PM   ___
 
Brief Hospital Course:
Ms. ___ is a ___ y/o F with pmh bipolar disorder, depression, 
polysubstance abuse, and previous suicide attempt, who was 
transferred to ___ this admission from OSH s/p ___ 
stab wounds to the left neck and chest.  She had a tiny left
pneumothorax noted on a CT scan from ___. The 
patient was admitted to the Acute Care Surgery/Trauma service 
and underwent direct laryngoscopy, bronchoscopy and 
esophagoscopy, left thoracostomy tube placement, exploration and 
washout of multiple neck and chest wounds.  This procedure went 
well (reader, please refer to operative note for further 
details).  After remaining hemodynamically stable in the PACU, 
the patient was transferred to the surgical floor.  She was 
placed on 1:1 sitter observation.  Psychiatry was consulted and 
the patient was placed under section 24.  It was determined that 
she required inpatient Psychiatry placement once medically 
cleared for discharge. 

The chest tube was initially placed to suction after surgery and 
was then placed to water seal.  Repeat chest x-ray 
re-demonstrated a large left pneumothorax, and the chest tube 
was placed back to suction.  The chest tube was ultimately 
removed on POD #4 and repeat chest x-ray showed resolution of 
the pneumothorax.  The patient tolerated a regular diet and pain 
was managed with acetaminophen, ibuprofen and tramadol. Her 
wound and chest wicks were changed and then, when the wicks were 
no longer needed, they were removed and covered only with dry 
sterile gauze.  A tertiary exam was performed which was negative 
for other traumatic injury. 

The patient's fever curves were closely watched for signs of 
infection, of which there were none. The patient's blood counts 
were closely watched for signs of bleeding, of which there were 
none.The patient received subcutaneous heparin and ___ dyne 
boots were used during this stay and was encouraged to get up 
and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OXcarbazepine 450 mg PO QHS 
2. traZODone 50 mg oral QHS 
3. Abilify (ARIPiprazole) 5 mg oral DAILY 
4. BuPROPion XL (Once Daily) 150 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
Do not exceed 3g a day.  
2.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild  
3.  TraMADol 50 mg PO Q4H:PRN Pain - Severe 
Please do not drive or drink alcohol while taking this 
medication. 
RX *tramadol 50 mg 1 tablet(s) by mouth Q 4 hrs Disp #*10 Tablet 
Refills:*0 
4.  ARIPiprazole 5 mg oral DAILY  
5.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
6.  OXcarbazepine 450 mg PO QHS  
7.  TraZODone 50 mg oral QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Self Inflicted Stabbing to Neck and Chest 
Pneumothorax 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ with 
___ stab wounds to your left neck and chest.  You 
also had a puncture of your left lung. You were taken to the 
operating room and were scoped from above to assess your air way 
structures.  You also had a left chest tube placed to evacuate 
excess air  

thoracostomy tube placement, exploration and washout of multiple 
neck and chest wounds. You are recovering well and are now ready 
for discharge. Please follow the instructions below to continue 
your recovery:  
 Liver/ Spleen lacerations:  
 *AVOID contact sports and/or any activity that may cause injury 
to your abdominal area for the next ___ weeks.  
 
 *If you suddenly become dizzy, lightheaded, feeling as if you 
are going to pass out go to the nearest Emergency Room as this 
could be a sign that you are having internal bleeding from your 
liver or spleen injury.  
 
 *AVOID any blood thinners such as Motrin, Naprosyn, Indocin, 
Aspirin, Coumadin or Plavix for at least ___ days unless 
otherwise instructed by the MD/NP/PA.  
 Rib Fractures:  
 * Your injury caused ____________ rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.  
 
 * You should take your pain medication as directed to stay 
ahead of the pain otherwise you won't be able to take deep 
breaths. If the pain medication is too sedating take half the 
dose and notify your physician.  
 
 * Pneumonia is a complication of rib fractures. In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake. This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.  
 
 * You will be more comfortable if you use a cough pillow to 
hold against your chest and guard your rib cage while coughing 
and deep breathing.  
 
 * Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.  
 
 * Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.  
 
 * Do NOT smoke  
 
 * If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.  
 
 * Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).  
 Lap CCY:  
 Please follow up in the Acute Care Surgery clinic at the 
appointment listed below.  
 
 ACTIVITY:  
 -Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.  
 -You may climb stairs.  
 -You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.  
 -Don't lift more than ___ lbs for 4 weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.  
 -You may start some light exercise when you feel comfortable.  
 -You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.  
 
 HOW YOU MAY FEEL:  
 -You may feel weak or "washed out" for a couple of weeks. You 
might want to nap often. Simple tasks may exhaust you.  
 -You may have a sore throat because of a tube that was in your 
throat during surgery.  
 -You might have trouble concentrating or difficulty sleeping. 
You might feel somewhat depressed.  
 -You could have a poor appetite for a while. Food may seem 
unappealing.  
 -All of these feelings and reactions are normal and should go 
away in a short time. If they do not, tell your surgeon.  
 
 YOUR INCISION:  
 -Tomorrow you may shower and remove the gauzes over your 
incisions. Under these dressing you may have small plastic 
bandages called steri-strips. Do not remove steri-strips for 2 
weeks. (These are the thin paper strips that might be on your 
incision.) But if they fall off before that that's okay). If 
your incisions are closed with dermabond (surgical glue), this 
will fall off on it's own in ___ days.  
 -Your incisions may be slightly red. This is normal.  
 -You may gently wash away dried material around your incision.  

 -Avoid direct sun exposure to the incision area.  
 -Do not use any ointments on the incision unless you were told 
otherwise.  
 -You may see a small amount of clear or light red fluid 
staining your dressing or clothes. If the staining is severe, 
please call your surgeon.  
 -You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.  
 
 YOUR BOWELS:  
 -Constipation is a common side effect of narcotic pain 
medications. If needed, you may take a stool softener (such as 
Colace, one capsule) or gentle laxative (such as milk of 
magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.  
 -If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.  
 
 PAIN MANAGEMENT:  
 -It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness".  
 -Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon. 
 
 -You will receive a prescription for pain medicine to take by 
mouth. It is important to take this medicine as directed. o Do 
not take it more frequently than prescribed. Do not take more 
medicine at one time than prescribed.  
 -Your pain medicine will work better if you take it before your 
pain gets too severe.  
 -Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.  
 -If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.  
 -Remember to use your "cough pillow" for splinting when you 
cough or when you are doing your deep breathing exercises.  
 If you experience any of the following, please contact your 
surgeon:  
 - sharp pain or any severe pain that lasts several hours  
 - pain that is getting worse over time  
 - pain accompanied by fever of more than 101  
 - a drastic change in nature or quality of your pain  
 
 MEDICATIONS:  
 Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently.  
 If you have any questions about what medicine to take or not to 
take, please call your surgeon.  

 Warm regards,  
 Your ___ Surgery Team  
 
Followup Instructions:
___